US07919519B2
To a yellow solution of 4-benzyl-2-nitrophenol (2.0 g, 8.7 mmol) in 20 mL DMF at 0° C. was added sodium hydride (0.38 g, 9.6 mmol). The reaction became deep orange, and after 30 min dimethylthiocarbamoyl chloride (1.2 g, 9.6 mmol) was added. The reaction was stirred over the weekend at room temperature. Water was added, and the mixture was extracted with DCM 3 times. The combined extracts were washed with 0.5M NaHCO3, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give a brown oil. The oil was heated to 160° C. for a total of 2 h. The reaction was cooled, and the resulting oil was loaded directly onto a 120 g ISCO column and eluted with 0-30-50% EtOAc/hexanes, to give S-4-benzyl-2-nitrophenyl dimethylcarbamothioate. MS (ESI) m/z: Calculated: 316.1; Observed: 317.1 (M++1).

reactant | 4-benzyl-2-nitrophenol | 8.7 mmol, 2.0 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C13H11NO3
reactant | sodium hydride | 9.6 mmol, 0.38 g | [H-].[Na+]
reactant | dimethylthiocarbamoyl chloride | 9.6 mmol, 1.2 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | S-4-benzyl-2-nitrophenyl dimethylcarbamothioate | CN(C(SC1=C(C=C(C=C1)CC1=CC=CC=C1)[N+](=O)[O-])=O)C | C16H16N2O3S
